### PR TITLE
feat(AlgebraicGeometry): scheme level order of vanishing api

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR, we develop some API for the order of vanishing of rational functions on schemes. We also change the file structure of order of vanishing in algebraic geometry to more closely mirror that of the ring theoretic order of vanishing results.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/OrderOfVanishing/Basic.lean [hunk 1]
```diff
@@ -85,6 +85,57 @@ lemma ord_mul {x : X} {f g : X.functionField}
...
+    (hF : ∀ i ∈ T, F i ≠ 0) : ord (∏ i ∈ T, F i) z = ∑ i ∈ T, ord (F i) z := by
+  classical
+  induction T using Finset.induction_on with
+  | empty => simp
+  | insert a T haT ih =>
+    have hprod : (∏ i ∈ T, F i) ≠ 0 :=
+      Finset.prod_ne_zero_iff.mpr fun i hi => hF i (Finset.mem_insert_of_mem hi)
+    rw [Finset.prod_insert haT, Finset.sum_insert haT,
+      ord_mul (hF a (Finset.mem_insert_self a T)) hprod,
+      ih fun i hi => hF i (Finset.mem_insert_of_mem hi)]
```
Comment (Brian-Nugent) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing/Basic.lean:137]: Should these also be simp lemmas?

Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing/Basic.lean:142]: Ah yeah you're right, thanks for that. Just made them simp lemmas
